US08604055B2
Step (x): Synthesis of (6-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-2,3-dimethyl-3H-imidazo[4,5-b]pyridin-5-yl)-bis-cyclopropylmethyl-amine
To a solution of (6-{[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-2,3-dimethyl-3H-imidazo[4,5-b]pyridin-5-yl)-bis-cyclopropylmethyl-amine (0.220 g, 3.7 mmol.) in DMF (8 mL) was added 60% sodium hydride (0.017 g, 0.741 mmol.) at 0° C. and the resulting reaction mixture was stirred at the same temperature for 15 min. and then methyl iodide (0.046 mL, 0.0741 mmol.) was added and continued to stir for 30 min. The crude product was extracted with ethyl acetate (250 mL), washed with water (250 mL×2) and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by column chromatography using 230-400 mesh silica gel eluting with 1:1 hexane: ethyl acetate yielded 0.010 gm (yield: 4.4%) of pure colorless gummy compound.

reactant | (6-{[(3,5-bis-trifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-2,3-dimethyl-3H-imidazo[4,5-b]pyridin-5-yl)-bis-cyclopropylmethyl-amine | 3.7 mmol, 0.220 g | FC(C=1C=C(CN(C=2N=NNN2)CC=2C=C3C(=NC2N(CC2CC2)CC2CC2)N(C(=N3)C)C)C=C(C1)C(F)(F)F)(F)F | C27H29F6N9
reactant | sodium hydride | 0.741 mmol, 0.017 g | [H-].[Na+]
reactant | methyl iodide | 0.0741 mmol, 0.046 mL | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (6-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-2,3-dimethyl-3H-imidazo[4,5-b]pyridin-5-yl)-bis-cyclopropylmethyl-amine | 0.010 gm, yield: 4.4% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C=C3C(=NC2N(CC2CC2)CC2CC2)N(C(=N3)C)C)C=C(C1)C(F)(F)F)(F)F | C28H31F6N9
